US04999377
The starting material was obtained as follows: A solution of 4-pyridylmethylamine (1.08 g) and triethylamine (1.0 g) in dichloromethane (25 ml) was added slowly over 30 minutes to a chilled, stirred solution of chloroacetyl chloride (1.2 g) in dichloromethane (7.5 ml). The reaction mixture was maintained at 0-5° C. throughout the addition, stirred for a further 30 minutes and allowed to warm to room temperature. The reaction mixture was washed with water (2×10 ml) and dried over MgSO4. Evaporation of the solvent under reduced pressure gave N-(4-pyridylmethyl)chloroacetamide as a brown oil, which was used immediately.

reactant | 4-pyridylmethylamine | 1.08 g | N1=CC=C(C=C1)CN | C6H8N2
reactant | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 1.2 g | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 7.5 ml | ClCCl | CH2Cl2
product | N-(4-pyridylmethyl)chloroacetamide | N1=CC=C(C=C1)CNC(CCl)=O | C8H9ClN2O
